US05728686
d) Diethyl [4-(1-ethoxymethyl-3-methylxanthin-7-yl)butyl]phosphonate
4 g (0.018 mol) of 1-ethoxymethylxanthine were stirred at 70° C. for 6 hours with 3 g of potassium carbonate and 4.9 g (0.0214 mol) of diethyl chlorobutanephosphonate. The solution was filtered and concentrated, and the residue which remained was chromatographed (eluent: dichloromethane/methanol 20:1).

reactant | 1-ethoxymethylxanthine | 0.018 mol, 4 g | C(C)OCN1C(=O)NC=2N=CNC2C1=O | C8H10N4O3
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl chlorobutanephosphonate | 0.0214 mol, 4.9 g | ClC(CCC)P(OCC)(=O)OCC | C8H18ClO3P
product | Diethyl [4-(1-ethoxymethyl-3-methylxanthin-7-yl)butyl]phosphonate | C(C)OCN1C(=O)N(C=2N=CN(C2C1=O)CCCCP(OCC)(OCC)=O)C | C17H29N4O6P
